US05144030
3-Cyano-2,2-dimethyl-5-hydroxy-6-iodo-7pent-1-yl-chromane
3,6-Diiodo-2,2-dimethyl-5-hydroxy-7-pent-1-yl chromane (0.293 g) and potassium cyanide (50 mg) were dissolved in 15 ml absolute ethanol and heated to reflux. After 4.5 hours, the reaction was allowed to cool to room temperature. The solvent was removed in vacuo. Water was added and extracted with methylene chloride. The methylene chloride was removed in vacuo. The residue was chromatographed on a silica gel column eluted with chloroform (TLC Rf=0.2, chloroform). The appropriate fractions were combined to yield 51 mg of product.

reactant | 3,6-Diiodo-2,2-dimethyl-5-hydroxy-7-pent-1-yl chromane | 0.293 g | IC1C(OC2=CC(=C(C(=C2C1)O)I)CCCCC)(C)C | C16H22I2O2
reactant | potassium cyanide | 50 mg | [C-]#N.[K+]
solvent | ethanol | 15 ml | C(C)O | C2H6O
product | 3-Cyano-2,2-dimethyl-5-hydroxy-6-iodo-7pent-1-yl-chromane | 51 mg | C(#N)C1C(OC2=CC(=C(C(=C2C1)O)I)CCCCC)(C)C | C17H22INO2
